US09216975B2
Preparation of 6-chloro-8-nitro-2H-benzo[b][1,4]oxazin-3(4H)-one 12 (Scheme 6)
To a solution of 2-amino-4-chloro-6-nitrophenol (5 g, 26.5 mmol) in DMF (20 ml) ethylbromoacetate (3 ml, 26.5 mmol) and K2CO3 (4 g, 29.15 mmol) were added and the reaction was stirred at room temperature for 20 hours. The solvent was evaporated and the crude was dissolved in AcOEt (30 ml) and washed with NaOH 5%, water and brine. The organic phase was dried over sodium sulfate and concentrated under vacuum. The purification of the crude residue by crystallization from ether/AcOEt gave 1.13 g of a beige solid. Yield: 19%. 1HNMR (DMSO, 200 MHz) δ 4.79 (2H, s), 7.15 (1H, d, J=2.6 Hz), 7.66 (1H, d, J=2.8 Hz), 11.21 (1H, bs)

reactant | 2-amino-4-chloro-6-nitrophenol | 26.5 mmol, 5 g | NC1=C(C(=CC(=C1)Cl)[N+](=O)[O-])O | C6H5ClN2O3
reactant | DMF | 26.5 mmol, 20 ml | CN(C)C=O | C3H7NO
reactant | K2CO3 | 29.15 mmol, 4 g | C(=O)([O-])[O-].[K+].[K+]
product | 6-chloro-8-nitro-2H-benzo[b][1,4]oxazin-3(4H)-one | 1.13 g, Yield: 19% | ClC1=CC2=C(OCC(N2)=O)C(=C1)[N+](=O)[O-] | C8H5ClN2O4
